US09326976B2
3,5-Dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-formylbenzamido)ethyl)carbamoyl)phenyl)sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide (30 mg, 0.034 mmol) was dissolved in DCM (300 μl, 4.66 mmol). Aniline (3.75 mg, 0.040 mmol) and acetic Acid (2.306 μl, 0.040 mmol) were added, and the mixture was stirred at RT for 30′. Sodium triacetoxyborohydride (8.54 mg, 0.040 mmol) was added, and the mixture was stirred at room temperature for 8 hrs to achieve completion. The reaction mixture was diluted with DCM and extracted with water. The organic phase was dried over Na2SO4 and concentrated under vacuum to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-((phenylamino)methyl)benzamido)ethyl)carbamoyl)phenyl)-sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide (35 mg, 0.036 mmol, 107% yield).

reactant | 3,5-Dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-formylbenzamido)ethyl)carbamoyl)phenyl)sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide | 0.034 mmol, 30 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1S(=O)(=O)C1=CC(=CC=C1)C(NCCNC(C1=CC(=CC=C1)C=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C39H36Cl2F2N4O10S2
reactant | Aniline | 0.040 mmol, 3.75 mg | NC1=CC=CC=C1 | C6H7N
reactant | acetic Acid | 0.040 mmol, 2.306 μl | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.040 mmol, 8.54 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.66 mmol, 300 μl | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-((3-((2-(3-((phenylamino)methyl)benzamido)ethyl)carbamoyl)phenyl)-sulfonyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide | 0.036 mmol, 35 mg, 107% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1S(=O)(=O)C1=CC(=CC=C1)C(NCCNC(C1=CC(=CC=C1)CNC1=CC=CC=C1)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C45H43Cl2F2N5O9S2
